US06800629B2
In 10 mL of concentrated hydrochloric acid was dissolved 1.6 g of 6-fluoro-2-pyrazinecarbonitrile. The solution thus obtained was stirred at 40° C. for 2 hours. The reaction mixture was cooled to room temperature, a mixture of 25 mL of ethyl acetate and 10 mL of water was added, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The organic layers were united, washed with saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=1:1] to obtain 0.75 g of 6-fluoro-2-pyrazinecarboxamide as a light brown-colored solid product.

reactant | 6-fluoro-2-pyrazinecarbonitrile | 1.6 g | FC1=CN=CC(=N1)C#N | C5H2FN3
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 10 mL | O | H2O
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | 6-fluoro-2-pyrazinecarboxamide | 0.75 g | FC1=CN=CC(=N1)C(=O)N | C5H4FN3O
